US09388161B2
(S)-cyclopropyl(2-methyl-5-phenoxy-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (I-327)
A 50-mL round-bottom flask equipped with balloon of air was charged with (S)-cyclopropyl(5-hydroxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.150 g, 0.50 mmol), phenylboronic acid (0.185 g, 1.52 mmol), copper (II) acetate (0.228 g, 1.26 mmol), pyridine (0.12 mL, 1.49 mmol), triethyl amine (0.10 mL, 0.75 mmol), and dichloromethane (4 mL), and the resulting mixture stirred for 18 h at 40° C. The reaction mixture was cooled to room temperature and filtered, and the filtrate was concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 5% dichloromethane/methanol). The product was further purified by preparative-HPLC with the following conditions (Waters I): Column, SunFire Prep C18, 5 um, 19×100 mm; Mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (55% to 75% acetonitrile in 7 min, flow rate: 20 mL/min); Detector, UV 220&254 nm. This afforded (S)-cyclopropyl(2-methyl-5-phenoxy-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.025 g, 14%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.76-0.84 (m, 1H), 0.91-1.06 (m, 2H), 1.15-1.23 (m, 4H), 1.43-1.52 (m, 1H), 1.94-2.04 (m, 1H), 2.21-2.49 (m, 2H), 2.75-2.88 (m, 1H), 4.75-4.83 (m, 1H), 6.65-6.74 (m, 2H), 6.92 (d, J=7.20 Hz, 1H), 7.17 (t, J=7.50 Hz, 2H), 7.52 (d, J=8.70 Hz, 1H), 7.62 (d, J=8.70 Hz, 1H), 7.75 (s, 2H). MS (ESI, pos. ion) m/z 375 [M+H]+.

reactant | (S)-cyclopropyl(5-hydroxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.50 mmol, 0.150 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC=N1)O)C | C16H18N4O2
reactant | phenylboronic acid | 1.52 mmol, 0.185 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 1.49 mmol, 0.12 mL | N1=CC=CC=C1 | C5H5N
reactant | triethyl amine | 0.75 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (II) acetate | 1.26 mmol, 0.228 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-cyclopropyl(2-methyl-5-phenoxy-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC=N1)OC1=CC=CC=C1)C | C22H22N4O2
